US07125903B1
Heat a stirred mixture of 6-methoxy-3-(1-piperazinyl)-1,2-benzisoxazole (0.1 mol), and 62% w/w hydrobromic acid (116.5 mL) at 115° C. under nitrogen for 6 hours. Partially concentrate under reduced pressure (15–20 mm Hg) at 50 to 60° C., add water (100 mL) and concentrate again. Repeat this process two times. Treat the residual heterogenous slurry with water (150 mL), age at 5° C. for 0.5 hour, and collect the solid by vacuum filtration. Wash the filter cake twice with cold water and dry to afford 6-hydroxy-3-(1-piperazinyl)-1,2-benzisoxazole hydrobromide (33.7 g). Suspend the crude material in water (830 mL), heat to 95–97° C., treat with activated charcoal (6.64 g), age at 95–97° C. for 0.25 hour, vacuum filter through celite, cool the filtrate to 5° C. and after 0.5 hour collect the product by vacuum filtration. Wash the filter cake twice with cold water and dry at 80° C. in high vacuum for 4 hours to afford 6-hydroxy-3-(1-piperazinyl)-1,2-benzisoxazole hydrobromide (23.5 g, 79%). The material was 99.8% pure by HPLC (Nucleosil C-18 column, 5 micron, 4.6×25 cm; mobile phase: NH4H2PO4 (0.05N):acetonitrile, 55:45 v/v; flow rate 1 mL/min; UV detection at 220/240 nm. MS (EI) 219 (M+)

reactant | 6-methoxy-3-(1-piperazinyl)-1,2-benzisoxazole | 0.1 mol | COC1=CC2=C(C(=NO2)N2CCNCC2)C=C1 | C12H15N3O2
reactant | hydrobromic acid | 116.5 mL | Br | BrH
product | 6-hydroxy-3-(1-piperazinyl)-1,2-benzisoxazole hydrobromide | 33.7 g | Br.OC1=CC2=C(C(=NO2)N2CCNCC2)C=C1 | InChI=1S/C11H13N3O2.BrH/c15-8-1-2-9-10(7-8)16-13-11(9)14-5-3-12-4-6-14;/h1-2,7,12,15H,3-6H2;1H
